US05189042
17Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-phenyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol, 1 eq) and Cu(OAc)2 (2.8 mg, 0.014 mmol, 0.11 eq) in CH2Cl2 (1 ml) in a 16 mL screw-cap vial equipped with a magnetic stir-bar is added triphenyl bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.030 mL, 0.504 mmol, 4 eq) to a suspension of triphenyl bismuth carbonate (127 mg, 0.253 mmol, 2 eq) in CH2Cl2 (1 ml)]. The reaction vessel is capped and the mixture stirred for five days. The reaction mixture is diluted with several milliliters of saturated aqueous NaHCO3 and extracted 4 times with CH2Cl2. The organic extracts are combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product is isolated by preparative TLC on silica gel to give the title compound.

reactant | 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H68FNO12
reactant | triphenyl bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetic acid | 0.504 mmol, 0.030 mL, 4 eq | C(C)(=O)O | C2H4O2
reactant | triphenyl bismuth carbonate | 0.253 mmol, 127 mg, 2 eq | C(O)(O)=O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | several milliliters | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.014 mmol, 2.8 mg, 0.11 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-phenyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=CC=C2)OC)C)C)O)=O | C49H72FNO12
